US06518268B1
Step A: Preparation of 4-Phenoxy-benzaldehyde
A suspension of potassium carbonate (1 eq.), 4-flurobenzaldehyde, and phenol (1.2 eq.) was heated to 150° C. and stirred for two days. The reaction was allowed to cool to room temperature and poured into saturated aq. sodium bicarbonate and ice. The solution was extracted with ether. The combined organic layers were washed with water and dried with Na2SO4. Concentration under vacuum gave pure product as an orange oil.

reactant | potassium carbonate | 1 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 4-flurobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | phenol | 1.2 eq. | C1(=CC=CC=C1)O | C6H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-Phenoxy-benzaldehyde | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
